US08349833B2
6-Bromo-2,2-dimethylhexanoic acid ethyl ester (38.0 g, 0.15 mol) and triphenylphosphine (40.0 g, 0.15 mol) were dissolved in toluene (100 mL) and heated to reflux for 24 hours under an argon atmosphere. After 24 hours of heating, the flask was allowed to cool to room temperature and stirred for an additional 24 hours at room temperature. After 48 hours, the toluene was removed under reduced pressure. The remaining material was dissolved in dichloromethane (100 mL) and added drop-wise to t-butyl methyl ether (600 mL). The ether was decanted away from the precipitate, which was dried to a constant weight under high vacuum to provide (5-ethoxycarbonyl-5-methylhexyl)-triphenylphosphonium bromide (71.5 g, 93.1% yield) as a light yellow foam. 1H NMR (300 MHz, CDCl3/TMS): δ=7.87-7.57 (m, 15H), 4.05 (1, 2H, J=7.2 Hz), 3.67 (m, 2H), 1.78-1.45 (m, 6H), 1.20 (t, 3H, J=7.2 Hz), 1.12 (s, 6H). 13C NMR (75 MHz, CDCl3/TMS): δ=177.02, 134.56 (d, 3C, J=2.4 Hz), 132.94 (d, 6C, J=10.1 Hz), 129.99 (d, 6C, J=12.6 Hz), 117.44 (d, 3C, J=85.4 Hz), 59.78, 41.47, 39.12, 25.44 (d, 1C, J=15.5 Hz), 24.62, 22.59 (d, 1C, j=4.1 Hz), 21.96, 13.83. FIRMS (ESI-TOF): Calculated for (M+): 433.2291, found: 433.2330.

reactant | 6-Bromo-2,2-dimethylhexanoic acid ethyl ester | 0.15 mol, 38.0 g | C(C)OC(C(CCCCBr)(C)C)=O | C10H19BrO2
reactant | triphenylphosphine | 0.15 mol, 40.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (5-ethoxycarbonyl-5-methylhexyl)-triphenylphosphonium bromide | 71.5 g, 93.1% yield | [Br-].C(C)OC(=O)C(CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | InChI=1S/C28H34O2P.BrH/c1-4-30-27(29)28(2,3)22-14-15-23-31(24-16-8-5-9-17-24,25-18-10-6-11-19-25)26-20-12-7-13-21-26;/h5-13,16-21H,4,14-15,22-23H2,1-3H3;1H/q+1;/p-1
